US07105544B2
N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-4-FLUOROPHENYL]-2-METHYLPROPANAMIDE
Example 24 was prepared from diphenylacetyl chloride and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 8: 1H NMR (400 MHz, CDCl3) δ 7.95 (s, 1H), 7.47 (dd, 1H, J=2.4, 6.4 Hz), 7.34–7.21 (m, 11H), 7.06 (t, 1H, J=4.8 Hz), 6.91 (t, 1H, J=10.0 Hz), 4.90 (s, 1H), 3.38 (dd, 2H, J=6.0, 11.6 Hz), 2.90–2.87 (m, 2H), 2.74 (m, 1H), 2.50 (m, 1H), 2.36 (t, 2H, J=6.8 Hz), 1.96 (dt, 2H, J=2.8, 12.0 Hz), 1.73–1.62 (m, 6H), 1.20 (d, 6H, J=6.8 Hz); ESMS m/e: 516.3 (M+H)+.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O | C18H28FN3O
product | N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-4-FLUOROPHENYL]-2-METHYLPROPANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O)C1=CC=CC=C1 | C32H38FN3O2
